US05698560
According to a similar manner as that in Reference Example 36 except that 4-cyanophenol, 1-bromo-4-chlorobutane, and diethylamine were used, 4-[4-(diethylamino)butoxy]benzonitrile (94%) was obtained as a crude product.

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | diethylamine | C(C)NCC | C4H11N
product | 4-[4-(diethylamino)butoxy]benzonitrile | 94% | C(C)N(CCCCOC1=CC=C(C#N)C=C1)CC | C15H22N2O
